US06544985B2
[2-Amino-4-chloro-5-(isobutyl-methyl-amino)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [4-chloro-5-(isobutyl-methyl-amino)-2-nitro-phenyl]-carbamic acid tert-butyl ester (Example C24) (5.55 g, 15.5 mmol) by reduction with SnCl2.2H2O according to the general procedure J (method b). Obtained as a pale brown solid (3.98 g, 78%).

reactant | [4-chloro-5-(isobutyl-methyl-amino)-2-nitro-phenyl]-carbamic acid tert-butyl ester | 15.5 mmol, 5.55 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)Cl)[N+](=O)[O-])=O | C16H24ClN3O4
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
product | [2-Amino-4-chloro-5-(isobutyl-methyl-amino)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)Cl)N)=O | C16H26ClN3O2
